US04061761
c. 4-(4-Chloro-3-phenylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
5.2 g of 2-bromo-4'-chloro-3'-phenylsulfamoylacetophenone and 1.5 g of 1,3-dimethylthiourea were reacted as prescribed in Example 23 and the precipitated end product was filtered off. Colorless crystals, melting point: 82° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-phenylsulfamoylacetophenone | 5.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(NC1=CC=CC=C1)(=O)=O | C14H11BrClNO3S
reactant | 1,3-dimethylthiourea | 1.5 g | CNC(=S)NC | C3H8N2S
product | 4-(4-Chloro-3-phenylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NC1=CC=CC=C1)(=O)=O | InChI=1S/C17H18ClN3O3S2.BrH/c1-19-16-21(2)17(22,11-25-16)12-8-9-14(18)15(10-12)26(23,24)20-13-6-4-3-5-7-13;/h3-10,20,22H,11H2,1-2H3;1H
